US04640916
In 10 ml of ethyl acetate were dissolved 628 mg of 2-(3-bromopropyl)-6,7-dimethyl-2H-1,4-benzothiazin-3(4H)-one and 721 mg of 1-(4-fluorophenyl)piperazine. The solution was concentrated and the concentrate was stirred at 110° C. for one hour, diluted with water, and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over MgSO4 and concentrated to give 2-[3-[4-(4-fluorophenyl)-1-piperazinyl]propyl]-6,7-dimethyl-2H-1,4-benzothiazin-3(4H)-one (650 mg, 78.6%). Recrystallization from methanol gave colorless prisms, m.p. 161°-162° C.

reactant | 2-(3-bromopropyl)-6,7-dimethyl-2H-1,4-benzothiazin-3(4H)-one | 628 mg | BrCCCC1SC2=C(NC1=O)C=C(C(=C2)C)C | C13H16BrNOS
reactant | 1-(4-fluorophenyl)piperazine | 721 mg | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 2-[3-[4-(4-fluorophenyl)-1-piperazinyl]propyl]-6,7-dimethyl-2H-1,4-benzothiazin-3(4H)-one | 650 mg, 78.6% | FC1=CC=C(C=C1)N1CCN(CC1)CCCC1SC2=C(NC1=O)C=C(C(=C2)C)C | C23H28FN3OS
